US08791132B2
To a degassed solution of 2-(6-allyl-3-methyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-pyridin-4-yl-ethanol (300 mg, 0.862 mmol) and 1,3 dimethyl barbituric acid (403 mg, 2.586 mmol) in DCM (7 mL) was added and Pd(PPh3)4 (20 mg, 0.0172 mmol) and the reaction mixture stirred at RT for 1 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with 20% aq potassium carbonate solution and extracted with DCM (3×25 mL). The combined organic layer was washed with 20% aq potassium carbonate solution, dried over anhydrous sodium sulfate and concentrated to yield 2-(3-methyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CDCl3, freebase) δ (ppm):8.5 (d, 2H), 8.03 (s, 1H), 7.51(s, 1H), 7.22 (d, 2H) 5.14 (d, 1H), 4.4 (dd, 1H), 4.27 (dd, 1H), 3.93 (q, 2H), 3.13 (m, 2H), 2.54 (dd, 1H), 2.42 (s, 3H), 2.3 (dd, 1H). Separation by chiral HPLC provided enantiomers 58a and 58b.

reactant | 2-(6-allyl-3-methyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-pyridin-4-yl-ethanol | 0.862 mmol, 300 mg | C(C=C)N1CC=2C=3C=C(C=NC3N(C2CC1)CC(O)C1=CC=NC=C1)C | C21H24N4O
reactant | 1,3 dimethyl barbituric acid | 2.586 mmol, 403 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0172 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-methyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-pyridin-4-yl-ethanol | CC=1C=NC=2N(C=3CCNCC3C2C1)CC(O)C1=CC=NC=C1 | C18H20N4O
